US05556864
21(a) 2-{2-[4-(4-Methylphenyl)butyl]phenoxymethyl}-oxirane
Following a procedure similar to that described in Example 1(a), 0.70 g of 2-[4-(4-methylphenyl)butyl]phenol (prepared as described in Preparation 6), 0.33 g of potassium t-butoxide and 0.8 g of epibromohydrin were reacted in 40 ml of dimethylacetamide. The crude product, extracted as described in Example 1(a), was purified as described in Example 1(a), to give 0.63 g (yield 73%) of the title compound as a colorless oil.

reactant | 2-[4-(4-methylphenyl)butyl]phenol | 0.70 g | CC1=CC=C(C=C1)CCCCC1=C(C=CC=C1)O | C17H20O
reactant | potassium t-butoxide | 0.33 g | CC(C)([O-])C.[K+]
reactant | epibromohydrin | 0.8 g | C(Br)C1CO1 | C3H5BrO
solvent | dimethylacetamide | 40 ml | CC(=O)N(C)C | C4H9NO
product | 2-{2-[4-(4-Methylphenyl)butyl]phenoxymethyl}-oxirane | 0.63 g, yield 73% | CC1=CC=C(C=C1)CCCCC1=C(OCC2OC2)C=CC=C1 | C20H24O2
